US07429565B2
2-Ethyl-4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-but-2-enal
A solution of [6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-acetaldehyde (1.5 g, 4.46 mmol) in toluene (14 mL) was heated at 100° C. with 2-(triphenyl-phosphanylidene)-butyraldehyde (1.68 g, 5.35 mmol) overnight. A second portion of 2-(triphenyl-phosphanylidene)-butyraldehyde (495 mg, 1.49 mmol) was added and the reaction mixture was heated for an additional day. After concentration, the residue was purified by silica gel chromatography to provide 1.3g (83%) of the desired product as oil. 1H NMR (300 MHz, CDCl3) δ 0.01 (s, 9H), 1.03 (t, 3H), 1.10-1.21 (m, 2H), 2.15 (s, 3H), 2.15-2.44 (m, 2H), 3.67-3.76 (m, 2H), 3.74 (s, 3H), 4.31-4.36 (m, 2H), 5.10 (s, 2H), 6.34-6.38 (m, 1H), 9.28 (s, 1H) ppm.

reactant | [6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-acetaldehyde | 4.46 mmol, 1.5 g | COC1=C(C(=C2C(OCC2=C1C)=O)OCC[Si](C)(C)C)CC=O | C17H24O5Si
reactant | 2-(triphenyl-phosphanylidene)-butyraldehyde | 5.35 mmol, 1.68 g | C1(=CC=CC=C1)P(=C(C=O)CC)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21OP
reactant | 2-(triphenyl-phosphanylidene)-butyraldehyde | 1.49 mmol, 495 mg | C1(=CC=CC=C1)P(=C(C=O)CC)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21OP
reactant | toluene | 14 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Ethyl-4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-but-2-enal | 1.3g, 83% | C(C)C(C=O)=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C | C21H30O5Si
